US05908858
72(i) N-(2,4-Difluorobenzylidene)-4-sulfamoylaniline
Following a procedure similar to that described in Example 1(i), but using 2,4-difluorobenzaldehyde and 4-sulfamoylaniline as starting materials, the title compound was obtained as a pale yellow powder (yield 52%).

reactant | 2,4-difluorobenzaldehyde | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 4-sulfamoylaniline | S(N)(=O)(=O)C1=CC=C(N)C=C1 | C6H8N2O2S
product | N-(2,4-Difluorobenzylidene)-4-sulfamoylaniline | FC1=C(C=NC2=CC=C(C=C2)S(N)(=O)=O)C=CC(=C1)F | C13H10F2N2O2S
